US05116846
Part C: 1-Benzyl-4-(2'-(4''-Fluorophenyl)-2'-hydroxyethyl)piperidine
A mixture of a solution of 4-fluorophenyl-magnesium bromide in ether (2 M, 12.5 mL, 25 mmol) and anhydrous tetrahydrofuran (25 mL) was stirred at ambient temperature under a nitrogen atmosphere. A solution of 1-benzyl-4-formylmethylpiperidine (3.6 g, 16.6 mmol) in anhydrous tetrahydrofuran (25 mL) was added dropwise. The reaction mixture was stirred for 19 hours, then it was poured onto a saturated ammonium chloride solution, mixed and extracted three times with ethyl acetate (50 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. Column chromatography (ethyl acetate:hexanes:1:1) gave the product, a pale yellow solid (Rf =0.08, 2.7 g):mp=84°-86° C.; 1H-NMR:7.4-7.25(m,7H), 7.0(t,2H,J=8), 4.7(dd,1H,J=8,6), 3.45(s,2H), 2.9-2.75(m,2H), 2.1-1.2(m,10H); HR-MS:Calcd for C20H24FNO:313.1842; Found:313.1862.

reactant | 4-fluorophenyl-magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | ether | 25 mmol, 2 M, 12.5 mL | CCOCC | C4H10O
reactant | 1-benzyl-4-formylmethylpiperidine | 16.6 mmol, 3.6 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-4-(2'-(4''-Fluorophenyl)-2'-hydroxyethyl)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C1=CC=C(C=C1)F | C20H24FNO
